US04851526
4-(Diethylamino)-1-[4-(1H-imidazol-1-yl)phenyl]butanone dihydrochloride hydrate
A mixture of 50.0 g (0.211 mol) 4-(diethylamino)-1-(4-fluorophenyl)butanone, 29.0 g (0.42 mol) imidazole, 58.24 g (0.42 mol) anhydrous potassium carbonate and 50 mL dimethylsulfoxide is heated to 150° C. for 18 hr and to 165° C. for 3 hr. After this time, the mixture is treated with 500 mL H2O and is extracted with 2×400 mL methylene chloride. The organic layers are washed with 5×300 mL water. The organic layer is dried over sodium sulfate, filtered and the solvent evaporated to provide crude title compound as free base. This material is dissolved in 200 mL methanol, acidified to pH=1 with hydrochloric acid (gas) and the solvent removed in vacuo. The residue is recrystallized from methanol-isopropanol (2/3) to provide the title compound.

reactant | 4-(diethylamino)-1-(4-fluorophenyl)butanone | 0.211 mol, 50.0 g | C(C)N(CCC(CC1=CC=C(C=C1)F)=O)CC | C14H20FNO
reactant | imidazole | 0.42 mol, 29.0 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.42 mol, 58.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
solvent | H2O | 500 mL | O | H2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 4-(Diethylamino)-1-[4-(1H-imidazol-1-yl)phenyl]butanone dihydrochloride hydrate | O.Cl.Cl.C(C)N(CCC(CC1=CC=C(C=C1)N1C=NC=C1)=O)CC | InChI=1S/C17H23N3O.2ClH.H2O/c1-3-19(4-2)11-9-17(21)13-15-5-7-16(8-6-15)20-12-10-18-14-20;;;/h5-8,10,12,14H,3-4,9,11,13H2,1-2H3;2*1H;1H2
